US06355636B1
6-Amino-4-(3-bromo-phenylamino)-[1.5]naphthyridine-3-carbonitrile
A solution of 6-acetamido-4-chloro-[1.5]naphthyridine-3-carbonitrile (200 mg, 0.81 mmol), 3-bromoaniline (0.5 ml) and pyridine HCl (188 mg) in ethoxyethanol (20 ml) was heated at reflux for 3 hrs. After cooling, the solvent was removed by rotary evaporation, and the residue was cooled and made basic with NH4OH. The aqueous layer was extracted with ethyl acetate. The combined extracts were washed (brine), dried (Na2SO4), and concentrated. The residue was chromatographed (flash column, silica gel, CH2Cl2:ether:MeOH=5:2:0.5) giving the title compound as a yellow solid (229 mg, 56%). mass spectrum (electrospray, m/e): 341.8 (M+H); IR cm-1: 2215, 1628; H-NMR δ(DMSO-d6): 6.816 (2H, bs, NH2), 7.093 (1H, d, C7-H), 7.35-7.43 (3H, m), 7.567 (1H, s), 7.931 (1H, d, C8-H), 8.333 (1H, s, C2-H), 9.236 (1H, s, NH).

reactant | 6-acetamido-4-chloro-[1.5]naphthyridine-3-carbonitrile | 0.81 mmol, 200 mg | C(C)(=O)NC=1N=C2C(=C(C=NC2=CC1)C#N)Cl | C11H7ClN4O
reactant | 3-bromoaniline | 0.5 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine HCl | 188 mg | Cl.N1=CC=CC=C1
solvent | ethoxyethanol | 20 ml | C(C)OC(C)O | C4H10O2
product | 6-Amino-4-(3-bromo-phenylamino)-[1.5]naphthyridine-3-carbonitrile | 229 mg, 56% | NC=1N=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
